US06376555B1
3-(4-Methoxy-phenyl)-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione
In a manner similar to Example 1, Step 2; 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione (0.300 g, 1.22 mmol) and 2-amino-3,3-dimethylbutane (0.18 mL, 1.34 mmol) in acetonitrile (7 mL) were converted to the title compound (0.28 g, 80%) m.p.: 179-181° C.; 1H NMR (DMSO-d6) δ 8.56(br d,1H), 8.06(ABq,2H), 7.09(ABq,2H), 4.31(m,1H), 3.83(s,3H), 1.24(d,3H), 0.91(s,9H); IR (KBr) 3200, 2980, 1780, 1720, 1620, 1420, 1310, 1270, 1190, 1120, 1040, 840 cm−1; MS (m/z) 287 [M+].

reactant | 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione | 1.22 mmol, 0.300 g | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)OC)=O)=O | C14H14O4
reactant | 2-amino-3,3-dimethylbutane | 1.34 mmol, 0.18 mL | NC(C)C(C)(C)C | C6H15N
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 3-(4-Methoxy-phenyl)-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione | 0.28 g, 80% | COC1=CC=C(C=C1)C=1C(C(C1NC(C(C)(C)C)C)=O)=O | C17H21NO3
